Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Asmanex Twisthaler
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, diarrhea, and fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ w/ PMH notable for developmental delay, 
COPD/asthma, s/p total abdominal colectomy for fluminant C-diff 
in ___, and CHF EF ___ who lives in a group home and is 
now presenting with nausea, vomiting, diarrhea, and a fever with 
CXR findings ___ of multifocal opacities consistent with an 
HCAP pneumonia.

History is limited secondary to patient's developmental delay. 
Per ED, patient awoke with nausea, vomiting, diarrhea and fever 
but it is unclear how long he has been unwell. He denies 
shortness of breath, chest pain, abdominal pain, bloody stool, 
or urinary symptoms.

In the ED, initials vitals were T102.7 110 140/60 24 93%RA.
Concerned about a possible infection responsible for the 
abdominal symptoms, tachycardia, tachypnea, and fever, ED 
collected the following labs:
UA: Leuk Tr, Protein Tr, RBC 1, WBC 5, Bacteria none
Lactate 1.8
Na: 146 
CBC: WBC 9.8, 89.6%N; Hct 35.4, MCV102; Plt 154
Lipid Panel: ALT 9, AST 16, AlkPhos 68, TotalBili 0.2, 
Lipase: 21
Albumin 3.6
-Imaging was also obtained (as noted below), which included a 
CXR concerning for right upper lobe pneumonia and a second 
patchy opacity in the left lower lobe that could reflect an 
additional site of infection.
-The patient was given PO Acetaminophen 1000 mg and IV 
Levofloxacin 750 mg before being transfered to the medicine team 
for further pneumonia work-up and treatment.
 
On arrival to floor initial vitals were T98.1 120/58 76 20 
100%RA.
He endorsed vomiting and diarrhea as well as having a headache. 
He denied chest pain or abdominal pain. 
 
Past Medical History:
- CHF: EF ___ in ___
- Asthma
- COPD
- Dysphagia/Silent aspiration
- s/p total abdominal colectomy for fluminant C-diff in ___ 
with ostomy revision at ___ c/b cardiac arrest while in MICU
- Mild mental retardation/Developmental Delay
- Anxiety and Obsessive Compulsive Disorder 
- Hypertension
- Chronic constipation
- Macrocytic Anemia        
- Colon polyps      
- GERD
 
Social History:
___
Family History:
No history of developmental delay
 
Physical Exam:
EXAM ON ADMISSION:
VS T98.1 120/58 76 20 100%RA 
GENERAL: Well-appearing elderly man. In no acute distress. Very 
friendly and fairly cooperative with exam. Conversation limited 
by developmental delay.
HEENT: Normocephalic, Sclera anicteric 
NECK: Nontender, supple neck, no cervical LAD
CV: Regular rate and rhythm. Normal S1 and S2 appreciated. No 
murmurs.
PULM: Difficult to appreciate clarity due to poor inspiratory 
and expiratory effort. No wheezing.
ABDOMEN: Ostomy bag in place and clean, slight small area of 
skin irritation. Nondistended, nontender in all quadrants, no 
rebound/guarding.
EXT:Warm and well perfused, 2+ radial and DP pulses, no 
clubbing, cyanosis or edema. Onychomycosis.
NEURO: Alert. Oriented to self and the reason he is in the 
hospital. Affable affect. Expression limited secondary to 
developmental delay.
_
_
________________________________________________________________
EXAM ON DISCHARGE:
VS:  T97.8 123/60 88 18 100%RA
GENERAL: Well-appearing elderly man. In no acute distress. Very 
friendly and fairly cooperative with exam. Conversation limited 
by developmental delay and perseveration.
HEENT: Normocephalic, Sclera anicteric 
NECK: Nontender, supple neck, no cervical LAD
CV: Regular rate and rhythm. Normal S1 and S2 appreciated. No 
murmurs.
PULM: Difficult to appreciate clarity due to poor inspiratory 
and expiratory effort. No wheezing.
ABDOMEN: Ostomy bag in place and clean, slight small area of 
skin irritation. Nondistended, nontender in all quadrants, no 
rebound/guarding.
EXT:Warm and well perfused, 2+ radial and DP pulses, no 
clubbing, cyanosis or edema. Onychomycosis.
NEURO: Alert. Oriented to self and the reason he is in the 
hospital. Affable affect. Verbal expression limited secondary to 
developmental delay.
 
Pertinent Results:
LABS ON ADMISSION:
___ 07:40AM BLOOD WBC-9.8# RBC-3.46* Hgb-11.6* Hct-35.4* 
MCV-102* MCH-33.4* MCHC-32.7 RDW-14.1 Plt ___
___ 07:40AM BLOOD Neuts-89.6* Lymphs-6.0* Monos-3.8 Eos-0.5 
Baso-0.1
___ 07:40AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 07:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 07:40AM BLOOD Glucose-97 UreaN-20 Creat-0.7 Na-146* 
K-3.6 Cl-107 HCO3-32 AnGap-11
___ 07:40AM BLOOD ALT-9 AST-16 AlkPhos-68 TotBili-0.2
___ 07:40AM BLOOD Albumin-3.6
___ 07:47AM BLOOD Lactate-1.8

LABS ON DISCHARGE:
___ 12:53PM BLOOD WBC-8.3 RBC-3.47* Hgb-11.6* Hct-36.6* 
MCV-105* MCH-33.4* MCHC-31.8 RDW-14.2 Plt ___
___ 12:53PM BLOOD Glucose-124* UreaN-13 Creat-0.5 Na-144 
K-3.6 Cl-105 HCO3-31 AnGap-12

MICRO:
- ___ Urine Culture Prelim: PROTEUS MIRABILIS. PRESUMPTIVE 
IDENTIFICATION. 10,000-100,000 ORGANISMS/ML. Pan-sensitive. 
- ___ Blood culture X2: no growth to date
- ___ Stool:  C. difficile DNA amplification assay: 
Negative for toxigenic C. difficile by the Illumigene DNA 
amplification assay. 
           
IMAGING:
- ABDOMEN(Supine and Erect) ___:
No evidence of bowel obstruction or free intraperitoneal gas.
- CHEST (PA & LAT) ___:
Right upper lobe pneumonia. Second patchy opacity in the left 
lower lobe could reflect an additional site of infection. Follow 
up radiographs after treatment are recommended to ensure 
resolution of these findings.
 
Brief Hospital Course:
Mr. ___ is a ___ w/ PMH notable for developmental delay, 
COPD/asthma, s/p total abdominal colectomy for fluminant C-diff 
in ___, and CHF EF ___ who lives in a group home and is 
now presenting with nausea, vomiting, diarrhea, and a fever with 
CXR findings ___ of multifocal opacities consistent with an 
HCAP pneumonia. Started Vancomycin 1000 mg IV Q 12H (day 1 - 
___ and CefePIME 2 g IV Q12H (day 1 - ___ 
switched to Levofloxacin 750 mg PO to be completed on ___. 
He should have a repeat CXR in 1 month by his PCP to ensure 
resolution.     

# Pneumonia, HCAP
Patient presents with complaints of nausea, vomiting, and 
diarrhea. Found to be febrile up to 102.7F, tachycardic, and 
tachypnic. CXR findings of multifocal opcities. Clinical 
presentation and CXR consistent with pneumonia. Mutifocal 
opacity in setting of group home. Started Vancomycin 1000 mg IV 
Q 12H (day 1 - ___ and CefePIME 2 g IV Q12H (day 1 - 
___. Switched to levofloxacin 750mg PO on ___ to 
complete 8 day course on ___. Blood culture x2 no growth to 
date.

# Diarrhea 
History of total abdominal colectomy for fluminant C-diff in 
___ with ostomy revision at ___ c/b cardiac arrest while in 
MICU. Now presenting with diarrhea. Stool C. difficile DNA 
amplification assay negative.

# Dysphagia/Silent aspiration. Placed on strict diet according 
to swallow study results: Soft solids, Nectar-thick liquids; 
meds whole in applesauce, cut/crushed if large; 1:1 supervision 
when eating; NO STRAW; OOB for all meals, standard aspiration 
precautions.

#UTI- pan sensitive protease; will continue levofloxacin until 
___ to complete 7 day course for complicated UTI

# CHF: EF ___ in0 ___. Unclear etiology. Continued home 
Metoprolol. Unclear why not on an ACE inhibitor. Started on 
lisinopril 5mg. Not on home diuretics. 

# Asthma: Home Flovent continued. Albuterol nebulizer provided 
as needed. As a transitional concern, we reccomend switching to 
Advair and stopping fluticasone. 

# Hypertension. Continued home Metoprolol Tartrate 25 mg PO BID. 
As a transitional concern, consider switching to metoprolol 
succinate for its mortality benefits.

## Transitional issues. 
- Maintain antibiotic regimen of Levofloxacin 750 mg PO daily 
until ___.
- Out of concern for aspiration, please monitor diet and food 
consumption closely. It is important that he follows a diet of 
soft diet with nectar thickened liquids.
- Obtain chest x-ray one month after discharge to ensure 
resolution of pulmonary process.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clozapine 50 mg PO QAM 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
4. Docusate Sodium 100 mg PO BID 
5. Artificial Tears 1 DROP BOTH EYES BID 
6. Metoprolol Tartrate 25 mg PO BID 
7. Vitamin D 1000 UNIT PO QAM 
8. Aspirin 81 mg PO QAM 
9. Clozapine 100 mg PO QPM 
10. Ferrous Sulfate 325 mg PO BID 
11. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
12. Albuterol 0.5% 3 mL IH Q6H:PRN severe congestion 
13. Loratadine 10 mg PO QAM 
14. Acetaminophen 650 mg PO Q4H:PRN pain 
15. Triamcinolone Acetonide 0.1% Cream 1 Appl TP QPM 
16. Ketoconazole 2%  1 Appl TP QHS:PRN abd and groin fungal 
growth 
17. Divalproex (DELayed Release) 500 mg PO TID 
18. Ascorbic Acid ___ mg PO BID 
19. Omeprazole 20 mg PO BID 
20. Benztropine Mesylate 1 mg PO BID 
21. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Artificial Tears 1 DROP BOTH EYES BID 
3. Aspirin 81 mg PO QAM 
4. Benztropine Mesylate 1 mg PO BID 
5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
6. Clozapine 50 mg PO QAM 
7. Clozapine 100 mg PO QPM 
8. Divalproex (DELayed Release) 500 mg PO TID 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Loratadine 10 mg PO QAM 
11. Metoprolol Tartrate 25 mg PO BID 
12. Omeprazole 20 mg PO BID 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP QPM 
14. Vitamin D 1000 UNIT PO QAM 
15. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
16. Ascorbic Acid ___ mg PO BID 
17. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
18. Albuterol 0.5% 3 mL IH Q6H:PRN severe congestion 
19. Docusate Sodium 100 mg PO BID 
20. Ferrous Sulfate 325 mg PO BID 
21. Ketoconazole 2%  1 Appl TP QHS:PRN abd and groin fungal 
growth 
22. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
23. Levofloxacin 750 mg PO DAILY Duration: 2 Days 
Last day ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Pneumonia, HCAP

Secondary diagnoses:
CHF: EF ___ in ___
Asthma
COPD
Dysphagia/Silent aspiration
S/p total abdominal colectomy for fluminant C-diff in ___ 
with ostomy revision at ___ c/b cardiac arrest while in MICU.
Mild mental retardation/Developmental Delay
Anxiety and Obsessive Compulsive Disorder 
Hypertension
Macrocytic Anemia             
GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Hi Mr. ___,

You were brought to the ___ 
because you were experiencing nausea, vomiting, and diarrhea and 
you were found to have a fever. A chest x-ray that was completed 
showed signs indicating that you have a pneumonia. 

To treat your pneumonia we started you on antibiotics and will 
be sending you home with antibiotics to be taken until ___.

It was a pleasure being involved in your care while you were 
here. We wish you the best of health and a speedy recovery. 
 
Followup Instructions:
___